US05633233
Allyl-3-O-methyl-glucopyranose (4.5 g) was dissolved in anhydrous DMF (120 mL) and sodium hydride (1.84 g, 50% dispersion in oil) was added thereto. The resulting solution was stirred for 0.5 hours at 0° C. Benzyl bromide (6.8 mL) was added dropwise at 0° to 5° C. and the reaction mixture was then stirred for 4 hours at room temperature. The reaction mixture was quenched by adding methanol, diluted with dichloromethane (250 mL) and washed with water (3×250 mL), dried over Na2SO4, filtered and evaporated. The material was purified by chromatography on silica gel using hexane-ethyl acetate (5:1) as eluent. The evaporated fractions from column were crystallized from a mixture of dichloromethane and hexane to provide for allyl-3-O-methyl-2,4,6-tri-O-benzyl-glucopyranose (8 g).

reactant | Allyl-3-O-methyl-glucopyranose | 4.5 g | C(C=C)C1(O)[C@H](O)[C@@H](OC)[C@H](O)[C@H](O1)CO | C10H18O6
reactant | sodium hydride | 1.84 g | [H-].[Na+]
reactant | Benzyl bromide | 6.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | allyl-3-O-methyl-2,4,6-tri-O-benzyl-glucopyranose | 8 g | C(C=C)C1(O)[C@H](OCC2=CC=CC=C2)[C@@H](OC)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C31H36O6
